US08486980B2
[step 1] Under a nitrogen atmosphere, 6-bromo-4-methyl-2-propylbenzimidazole (WO2004082621; 300 mg, 1.19 mmol) was dissolved in DMF (3 mL), and the mixture was cooled to 0° C. Potassium carbonate (829 mg, 6.00 mmol) was added, and the mixture was stirred at room temperature for 20 min. To this mixture was added (E)-2-(2-bromomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)acetonitrile (421 mg, 1.30 mmol) obtained in Reference Example B1, and the mixture was stirred at room temperature for 4 hr. Ethyl acetate was added to the mixture, and the organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/3) to give (E)-[2-(6-bromo-4-methyl-2-propylbenzimidazol-1-yl)methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene]acetonitrile (615 mg, 95%).

reactant | 6-bromo-4-methyl-2-propylbenzimidazole | 1.19 mmol, 300 mg | BrC=1C=C(C2=C(N=C(N2)CCC)C1)C | C11H13BrN2
reactant | Potassium carbonate | 6.00 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-(2-bromomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)acetonitrile | 1.30 mmol, 421 mg | BrCC1=CC2=C(\C(\C3=C(CC2)C=CC=C3)=C\C#N)C=C1 | C18H14BrN
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (E)-[2-(6-bromo-4-methyl-2-propylbenzimidazol-1-yl)methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene]acetonitrile | 615 mg, 95% | BrC=1C=C(C2=C(N(C(=N2)CCC)CC2=CC3=C(\C(\C4=C(CC3)C=CC=C4)=C\C#N)C=C2)C1)C | C29H26BrN3
